US06756390B2
Preparation of Amlodipine Hydrochloride
To 100 ml of methanol was added 12 ml of conc-hydrochloric acid. A solution of 54 g of amlodipine prepared in Reference Example 1 in 500 ml of methanol was added dropwise, followed by stirring at 23° C. for 3 hours.

reactant | hydrochloric acid | Cl | ClH
reactant | amlodipine | 54 g | CCOC(=O)C1=C(NC(=C(C1C=2C=CC=CC2Cl)C(=O)OC)C)COCCN | C20H25ClN2O5
solvent | methanol | 500 ml | CO | CH4O
solvent | methanol | 100 ml | CO | CH4O
product | Amlodipine Hydrochloride | CCOC(=O)C1=C(NC(=C(C1C2=CC=CC=C2Cl)C(=O)OC)C)COCCN.Cl | InChI=1S/C20H25ClN2O5.ClH/c1-4-28-20(25)18-15(11-27-10-9-22)23-12(2)16(19(24)26-3)17(18)13-7-5-6-8-14(13)21;/h5-8,17,23H,4,9-11,22H2,1-3H3;1H
